US07790709B2
Preparation of Methyl-(1-methylindol-5-ylmethyl)amine
N-Methylindole-5-carbaldehyde (800 mg, 5.1 mmol) was dissolved in anhydrous methanol (15 mL). Methylamine (7.15 mL of 2M solution in methanol, 15.3 mmol) was added and the reaction was stirred for 3 hr. The solution was concentrated to a yellow oil and then dissolved into anhydrous methanol (15 mL). Sodium borohydride (194 mg, 5.1 mmol) was added and the mixture was stirred overnight. Water (1 mL) was added and the solution was concentrated to an orange oil. Sodium hydroxide (5 mL, 1N) was added and the product was extracted with ethyl acetate (3×20 mL), dried over MgSO4 and concentrated to afford the title compound as an orange oil (885 mg, 100%). 1H NMR (200 MHz, CDCl3) δ 7.57(s, 1H), 7.35-7.11(m, 3H), 6.51 (d, J=2.9 Hz, 1H), 3.85 (s, 2H), 3.79 (s, 3H), 2.48 (s, 3H).

reactant | N-Methylindole-5-carbaldehyde | 5.1 mmol, 800 mg | CN1C=CC2=CC(=CC=C12)C=O | C10H9NO
reactant | Methylamine | 15.3 mmol, 2M, 7.15 mL | CN | CH5N
reactant | Sodium borohydride | 5.1 mmol, 194 mg | [BH4-].[Na+]
reactant | Water | 1 mL | O | H2O
solvent | methanol | 15 mL | CO | CH4O
product | Methyl-(1-methylindol-5-ylmethyl)amine | 885 mg, 100% | CNCC=1C=C2C=CN(C2=CC1)C | C11H14N2
